US07399759B2
Ethyl 2-methyl-3-[2-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propionate
Ethyl 3-(2-cyano-4-pyridyl)-2-methylpropionate (0.50 g, 2.3 mmol) and methyl thiosalicylate (0.96 g, 5.7 mmol) were dissolved in toluene (2 ml), and triethylamine (11.0 ml, 5.7 mmol) was added thereto. The reaction mixture was refluxed for 8 hrs and combined with isopropyl ether to precipitate crystals, which were collected by filtration and recrystallized from ethyl acetate to give the titled compound (0.43 g, 53%) as white crystals.

reactant | Ethyl 3-(2-cyano-4-pyridyl)-2-methylpropionate | 2.3 mmol, 0.50 g | C(#N)C1=NC=CC(=C1)CC(C(=O)OCC)C | C12H14N2O2
reactant | methyl thiosalicylate | 5.7 mmol, 0.96 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 5.7 mmol, 11.0 ml | C(C)N(CC)CC | C6H15N
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-methyl-3-[2-(4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propionate | 0.43 g, 53% | CC(C(=O)OCC)CC1=CC(=NC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C19H18N2O3S
